US08283354B2
A solution of 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (200 mg, 0.62 mmol) in CH2Cl2 (6.0 mL) was stirred under an N2 atmosphere. Then triethylamine (170 μL, 1.24 mmol) was added, and the reaction was cooled to −10 to −20° C. After adding 3-cyclopentylpropanoyl chloride (96 μL in 600 μL THF, 0.62 mmol), the reaction mixture was stirred for 30 minutes. CH2Cl2 was added, and the organic phase was washed 2× with H2O, dried over Na2SO4, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in 50:50 CH2Cl2: hexanes gave 3-cyclopentyl-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)propan-1-one (240 mg, 86%). LC/MS: m/z 445.50 (M+H)+ at 3.07 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.45 (dd, J=8.2, 1.8 Hz, 1H), 8.00 (d, J=8.5 Hz, 1H), 7.69 (s, 1H), 7.39 (m, 2H), 6.95 (m, 2H), 3.95 (dd, J=19.9, 5.6 Hz, 4H), 3.74 (m, 4H), 2.52 (s, 3H), 2.38 (t, J=7.8 Hz, 2H), 1.76 (m, 3H), 1.55 (m, 6H), 1.16 (m, 2H).

reactant | 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.62 mmol, 200 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | triethylamine | 1.24 mmol, 170 μL | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopentylpropanoyl chloride | 0.62 mmol, 96 μL | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)propan-1-one | 240 mg, 86% | C1(CCCC1)CCC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C27H32N4O2
